US08835428B2
Step 1: Ethyl 3-(4-(3-(2,4-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylate
Ethyl 3-(4-amino-3-methylphenyl)isoxazole-5-carboxylate (1.0 equiv.), 2,4-difluoro phenyl isocyanate (1.2 equiv.) and tetrahydrofuran in a round-bottom flask was stirred at room temperature for 48 hours. The solid precipitate was filtered and washed with a minimum quantity of THF and dried in vacuo to afford the title compound as a white solid (75%); 1H NMR (300 MHz, DMSO-d6) δ: 1.29-1.34 (t, J=7.0 Hz, 3H), 2.29 (s, 3H), 4.32-4.39 (q, 2H), 7.00-7.05 (m, 1H), 7.26-7.33 (m, 1H), 7.72-7.75 (d, J=8.4 Hz, 1H), 7.80 (s, 2H), 8.09-8.16 (m, 2H), 8.45 (s, 1H), 9.09 (s, 1H); IR (KBr) 3297, 3134, 2991, 1727, 1654, 1590, 1558, 1500, 1460, 1424, 1287, 1250, 1139, 1029, 841 cm1.

reactant | Ethyl 3-(4-amino-3-methylphenyl)isoxazole-5-carboxylate | 1.0 equiv. | NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C | C13H14N2O3
reactant | 2,4-difluoro phenyl isocyanate | 1.2 equiv. | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 3-(4-(3-(2,4-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylate | 75% | FC1=C(C=CC(=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C)=O | C20H17F2N3O4
